US07612075B2
D. 2-(4-Benzyloxycarbonyl-2-oxopiperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester.
Pd(PPh3)2Cl2 (0.29 g, 0.41 mmol), CuI (0.05 g, 0.25 mmol) and triethylamine (4.6 mL, 3.29 mmol) is added to a solution of 3-oxo-4-prop-2-ynylpiperazine-1-carboxylic acid benzyl ester (2.24 g, 8.23 mmol) and (3-iodopyridin-4-yl)-carbamic acid tert-butyl ester (2.63 g, 8.23 mmol) in DMF (30 mL) at room temperature. The mixture is heated to 100° C. and stirred for 1.5 hours. The reaction mixture is then cooled to 50° C. and DBU (2.5 mL, 16.5 mmol) is added. After 30 minutes the solution is cooled to room temperature, diluted with ethyl acetate and washed with saturated ammonium chloride, water and brine. The organic layer is dried over MgSO4, filtered and concentrated in vacuo. The resulting solid is purified by column chromatography eluting with a gradient of 2% MeOH/CH2Cl2to 5% MeOH/CH2Cl2to give the product (2.93 g, 6.31 mmol) as a white solid. 1H NMR (CDCl3, 300 MHz) δ8.75 (s, 1H), 8.4 (d, 1H), 7.85 (d, 1H), 7.35 (m, 5H), 6.38 (s, 1H), 5.2 (s, 2H), 5.00 (s, 2H), 4.29 (s, 2H), 3.85 (m, 2H), 3.52 (m, 2H), 1.7 (s, 9H). Ion spray MS, [M+H]+=465.

reactant | triethylamine | 3.29 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-4-prop-2-ynylpiperazine-1-carboxylic acid benzyl ester | 8.23 mmol, 2.24 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC#C)=O | C15H16N2O3
reactant | (3-iodopyridin-4-yl)-carbamic acid tert-butyl ester | 8.23 mmol, 2.63 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
reactant | DBU | 16.5 mmol, 2.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.41 mmol, 0.29 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.25 mmol, 0.05 g | [Cu]I
product | 2-(4-Benzyloxycarbonyl-2-oxopiperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester | 6.31 mmol, 2.93 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)C(=O)OCC2=CC=CC=C2)=O | C25H28N4O5
